.PARAM

*.GLOBAL vdd!


*.PIN vdd!




.SUBCKT precharge clk btl
.param w1=360n
MM1 btl clk vdd! vdd! PMOS_VTL W='w1' L=50n
.ENDS

.SUBCKT precharge72 clk btl
MM1 btl clk vdd! vdd! PMOS_VTL W=720n L=50n
.ENDS

.SUBCKT colmux_2 col in1 in2 out

m3 in2 colb out gnd! NMOS_VTL L=50e-9 W=180e-9
m0 in1 col out gnd! NMOS_VTL L=50e-9 W=180e-9
m2 in2 col out vdd! PMOS_VTL L=50e-9 W=180e-9
m1 in1 colb out vdd! PMOS_VTL L=50e-9 W=180e-9
MM5 colb col vdd! vdd! PMOS_VTL W=180n L=50n
MM6 colb col gnd! gnd! NMOS_VTL W=90n L=50n

.ENDS
