************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: sense_amp
* View Name:     schematic
* Netlisted on:  Jun 29 18:27:13 2009
************************************************************************

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    sense_amp
* View Name:    schematic
************************************************************************

.SUBCKT sense_amp q qbar se
*.PININFO se:I q:B qbar:B
MM4 net032 se gnd! gnd! NMOS_VTL W=360n L=50n
MM1 q qbar net032 gnd! NMOS_VTL W=360n L=50n
MM0 qbar q net032 gnd! NMOS_VTL W=360n L=50n
MM3 q qbar vdd! vdd! PMOS_VTL W=360n L=50n
MM2 qbar q vdd! vdd! PMOS_VTL W=360n L=50n
.ENDS

