************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: wdata_nodc
* View Name:     schematic
* Netlisted on:  Jun 29 18:53:17 2009
************************************************************************


*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    wdata_nodc
* View Name:    schematic
************************************************************************

.SUBCKT wdata_nodc btl clk data wr_en
*.PININFO clk:I data:I wr_en:I btl:O
MM10 btl net13 gnd! gnd! NMOS_VTL W=180n L=50n
MM9 btl net13 gnd! gnd! NMOS_VTL W=180n L=50n
MM6 net13 net25 gnd! gnd! NMOS_VTL W=180n L=50n
MM2 net17 clk gnd! gnd! NMOS_VTL W=90n L=50n
MM1 net21 wr_en net17 gnd! NMOS_VTL W=90n L=50n
MM0 net25 data net21 gnd! NMOS_VTL W=90n L=50n
MM8 btl net13 vdd! vdd! PMOS_VTL W=360n L=50n
MM7 btl net13 vdd! vdd! PMOS_VTL W=360n L=50n
MM4 net13 net25 vdd! vdd! PMOS_VTL W=360n L=50n
MM3 net25 clk vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

.SUBCKT wdata_dc btl clk data wr_en col
*.PININFO clk:I data:I wr_en:I btl:O col:I
m11 net038 col net25 gnd! NMOS_VTL L=50e-9 W=90e-9
m10 btl net13 gnd! gnd! NMOS_VTL L=50e-9 W=180e-9
m9 btl net13 gnd! gnd! NMOS_VTL L=50e-9 W=180e-9
m6 net13 net038 gnd! gnd! NMOS_VTL L=50e-9 W=180e-9
m2 net17 clk gnd! gnd! NMOS_VTL L=50e-9 W=90e-9
m1 net21 wr_en net17 gnd! NMOS_VTL L=50e-9 W=90e-9
m0 net25 data net21 gnd! NMOS_VTL L=50e-9 W=90e-9
m8 btl net13 vdd! vdd! PMOS_VTL L=50e-9 W=360e-9
m7 btl net13 vdd! vdd! PMOS_VTL L=50e-9 W=360e-9
m4 net13 net038 vdd! vdd! PMOS_VTL L=50e-9 W=360e-9
m3 net038 clk vdd! vdd! PMOS_VTL L=50e-9 W=180e-9
.ENDS

.SUBCKT wdata_dc4 btl clk data wr_en colb cola
*.PININFO clk:I data:I wr_en:I btl:O cola:I colb:I
m12 net049 cola net25 gnd! NMOS_VTL L=50e-9 W=90e-9
m11 net038 colb net049 gnd! NMOS_VTL L=50e-9 W=90e-9
m10 btl net13 gnd! gnd! NMOS_VTL L=50e-9 W=180e-9
m9 btl net13 gnd! gnd! NMOS_VTL L=50e-9 W=180e-9
m6 net13 net038 gnd! gnd! NMOS_VTL L=50e-9 W=180e-9
m2 net17 clk gnd! gnd! NMOS_VTL L=50e-9 W=90e-9
m1 net21 wr_en net17 gnd! NMOS_VTL L=50e-9 W=90e-9
m0 net25 data net21 gnd! NMOS_VTL L=50e-9 W=90e-9
m8 btl net13 vdd! vdd! PMOS_VTL L=50e-9 W=360e-9
m7 btl net13 vdd! vdd! PMOS_VTL L=50e-9 W=360e-9
m4 net13 net038 vdd! vdd! PMOS_VTL L=50e-9 W=360e-9
m3 net038 clk vdd! vdd! PMOS_VTL L=50e-9 W=180e-9
.ENDS
